* Slow active-high INM sweep: AUX 15 V, PWM high, INM 0 -> 3 -> 0 V.
* This checks the TI-derived 2.2/1.2 V disable hysteresis independently of
* the PWM input.
.include authored_logic_vendor_comphys.inc
Vaux aux15 0 15
Vdisable disable 0 PWL(0 0 1u 0 3u 3 5u 3 7u 0 8u 0)
Vpwm pwm_input 0 5
Xdriver disable pwm_input aux15 0 driver_out AUTH_UCC27511A_HV
Rgate driver_out gate 10
Rgs gate 0 10k
Cgate gate 0 12n
.tran 1n 8u
.control
set numdgt=17
set wr_singlescale
set wr_vecnames
run
wrdata authored-inm-sweep.tsv v(disable) v(driver_out) v(gate) v(xdriver.inm_state) v(xdriver.pwm_state) v(xdriver.aux_state) v(xdriver.driver_req)
quit
.endc
.end
